US04125732
2-(p-tert-Butylphenoxy)-1-propanol O-methanesulfonate
As in Example 56, 5.1 g of 2-(p-tert-butylphenoxy)-1-propanol is reacted with 2.3 ml of methanesulfonyl chloride in 150 ml of dichloromethane in the presence of 8 ml of triethylamine. The product (7.4 g) is obtained as an amber-colored liquid.

reactant | 2-(p-tert-butylphenoxy)-1-propanol | 5.1 g | C(C)(C)(C)C1=CC=C(OC(CO)C)C=C1 | C13H20O2
reactant | methanesulfonyl chloride | 2.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-(p-tert-Butylphenoxy)-1-propanol O-methanesulfonate | 7.4 g | CS(=O)(=O)OCC(C)OC1=CC=C(C=C1)C(C)(C)C | C14H22O4S
